US05173484
b) 3-Hydroxy-3-methylaminomethylpyrrolidine dihydrochloride
6.9 g (23.5 mmol) of 1-benzyl-3-hydroxy-3-methylaminomethylpyrrolidine dichloride in 100 ml of methanol are hydrogenated on 2 g of palladium/active carbon (10%) at 80° C. and 100 bar. The catalyst is filtered off with suction, the solution is concentrated and the residue is triturated with butanol. The crystalline salt is filtered off with suction, washed with acetone and dried.

reactant | 1-benzyl-3-hydroxy-3-methylaminomethylpyrrolidine dichloride | 23.5 mmol, 6.9 g | [Cl-].[Cl-].C(C1=CC=CC=C1)N1CC(CC1)(CNC)O
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | 2 g | [Pd] | Pd
product | 3-Hydroxy-3-methylaminomethylpyrrolidine dihydrochloride | Cl.Cl.OC1(CNCC1)CNC | InChI=1S/C6H14N2O.2ClH/c1-7-4-6(9)2-3-8-5-6;;/h7-9H,2-5H2,1H3;2*1H
